US07399775B2
1-(4-Chlorophenylsulfonylmethyl)-4-methoxybenzene
A butanol (5 ml) suspension of sodium 4-chlorobenzenesulfinate (264 mg, 1.33 mmol), 4-methoxybenzyl chloride (181 μl, 1.33 mmol) and tetrabutylammonium bromide (24 mg) was stirred at 70° C. for 3 days. After cooling the reaction mixture to room temperature, the solvent was concentrated under reduced pressure. Ethyl acetate was added to the residue and the mixture was washed successively with water and brine, and then dried over anhydrous sodium sulfate. After filtration, the filtrate was concentrated under reduced pressure. The residue was subjected to flash chromatography on a silica gel column, and the fraction obtained from the hexane:ethyl acetate (=5:1) eluate was concentrated under reduced pressure, whereby the title compound (90 mg, 23%) was obtained as a white solid.

reactant | sodium 4-chlorobenzenesulfinate | 1.33 mmol, 264 mg | ClC1=CC=C(C=C1)S(=O)[O-].[Na+]
reactant | 4-methoxybenzyl chloride | 1.33 mmol, 181 μl | COC1=CC=C(CCl)C=C1 | C8H9ClO
catalyst | tetrabutylammonium bromide | 24 mg | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | butanol | 5 ml | C(CCC)O | C4H10O
product | 1-(4-Chlorophenylsulfonylmethyl)-4-methoxybenzene | ClC1=CC=C(C=C1)S(=O)(=O)CC1=CC=C(C=C1)OC | C14H13ClO3S
